US07666870B2
2-Formyl-isonicotinic acid (iic)
A solution of 2-vinyl-isonicotinic acid in methanol/DCM 1/1 was cooled to −78° C. and ozone bubbled through it until the solution becomes blue. A stream of nitrogen is then passed through to remove the ozone excess and 1.5 equivalent of methyl sulfide added. The solution was allowed to warm up to room temperature and was concentrated. The product (iic) was then purified by silica flash chromatography.

reactant | 2-vinyl-isonicotinic acid | C(=C)C=1C=C(C(=O)O)C=CN1 | C8H7NO2
reactant | ozone | O=[O+][O-] | O3
reactant | methyl sulfide | 1.5 equivalent | CSC | C2H6S
solvent | methanol DCM | CO.C(Cl)Cl
product | 2-Formyl-isonicotinic acid | C(=O)C=1C=C(C(=O)O)C=CN1 | C7H5NO3
